US09387200B2
c) {[3-(4-Fluoro-phenyl)-4-hydroxy-7-methyl-isothiazolo[5,4-c]pyridine-5-carbonyl]-amino}-acetic acid
The title compound was synthesized in analogy to Example 1 from 3-(4-Fluoro-phenyl)-4-hydroxy-7-methyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester and glycine: MS (m/z) 360.1 (M−1).

reactant | 3-(4-Fluoro-phenyl)-4-hydroxy-7-methyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)C)SN=C2C2=CC=C(C=C2)F)O | C16H13FN2O3S
reactant | glycine | NCC(=O)O | C2H5NO2
product | {[3-(4-Fluoro-phenyl)-4-hydroxy-7-methyl-isothiazolo[5,4-c]pyridine-5-carbonyl]-amino}-acetic acid | FC1=CC=C(C=C1)C1=NSC2=C(N=C(C(=C21)O)C(=O)NCC(=O)O)C | C16H12FN3O4S
